US05973173
Pure azelaic acid is obtained by working up a reaction mixture containing C1-18 monocarboxylic acids, mainly pelargonic acid, and C4-16 dicarboxylic acids, mainly azelaic acid, obtained from the ozonolysis of oleic acid or a starting mixture containing oleic acid. All but <2% by weight of the monocarboxylic acids and part of the dicarboxylic acids with a chain length of <C9 and >C9 are separated off to obtain a prepurified product containing more than 75% by weight of oleic acid and the prepurified product is concentrated to more than 90% by weight of oleic acid in several process steps. In a first process step (1), the dicarboxylic acids with chain lengths of <C9 present in the prepurified product are removed as first runnings by fractional distillation. In a second process step (2), the bottom product obtained is reacted with water to split carboxylic anhydrides present in the bottom product. In a third process step (3), the reaction mixture is subjected to overhead distillation. The third process step (3) is carried out after or at the same time as the second process step (2). The product yield is improved. The process is particularly suitable for working on an industrial scale.

reactant | pelargonic acid | C(CCCCCCCC)(=O)O | C9H18O2
reactant | azelaic acid | C(CCCCCCCC(=O)O)(=O)O | C9H16O4
product | oleic acid | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
